US08558002B2
The reaction mixture of 3-{[2-amino-5-({[bis(5-methoxy-5-oxopentyl)(oxido)-sulfanylidene]amino}carbonyl)pyridin-3-yl]ethynyl}benzoic acid (56 mg, 0.1 mmol, 1.0 equiv.), m-anisidine (13.4 μL, 0.12 mmol, 1.2 equiv.), DMAP (2.5 mg, 0.02 mmol, 0.2 equiv.) and EDC (29 mg, 0.15 mmol, 1.5 equiv.) in DCE (1 mL) in a sealed vial was stirred and heated at 60° C. for 3 hours. The resulting brown solution was diluted with EtOAc, washed with sat. aq. NaHCO3, aq. NH4Cl, and brine, and finally dried with anhydrous Na2SO4. The solution was decanted, concentrated, and the oily residue was subject to a gradient column chromatography (from EtOAc-Hex 1:4 to 6:1) to yield Dimethyl 5,5′-[N-({6-amino-5-[(3-{[(3-methoxyphenyl)amino]carbonyl}phenyl)ethynyl]pyridin-3-yl}carbonyl)sulfonimidoyl]dipentanoate

reactant | 3-{[2-amino-5-({[bis(5-methoxy-5-oxopentyl)(oxido)-sulfanylidene]amino}carbonyl)pyridin-3-yl]ethynyl}benzoic acid | 0.1 mmol, 56 mg, 1.0 equiv. | NC1=NC=C(C=C1C#CC=1C=C(C(=O)O)C=CC1)C(=O)N=S(=O)(CCCCC(OC)=O)CCCCC(=O)OC | C27H31N3O8S
reactant | m-anisidine | 0.12 mmol, 13.4 μL, 1.2 equiv. | COC1=CC(=CC=C1)N | C7H9NO
catalyst | DMAP | 0.02 mmol, 2.5 mg, 0.2 equiv. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCE | 1 mL | ClCCCl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EDC | 0.15 mmol, 29 mg, 1.5 equiv.
product | Dimethyl 5,5′-[N-({6-amino-5-[(3-{[(3-methoxyphenyl)amino]carbonyl}phenyl)ethynyl]pyridin-3-yl}carbonyl)sulfonimidoyl]dipentanoate | NC1=C(C=C(C=N1)C(=O)N=S(=O)(CCCCC(=O)OC)CCCCC(=O)OC)C#CC1=CC(=CC=C1)C(=O)NC1=CC(=CC=C1)OC | C34H38N4O8S
